US08242125B2
3-Amino-N-isopropyl-5-(trifluoromethyl)benzamide
To a solution of 3-amino-5-(trifluoromethyl)benzoic acid (0.25 g, 1.22 mmol) in DMF (3 mL) is added HOBt (0.494 g, 3.66 mmol) followed by HATU (0.695 g, 1.83 mmol), propan-2-amine (0.311 mL, 3.66 mmol) and DIEA (0.96 mL, 5.48 mmol). After stirring at it overnight the solution is concentrated and the residue is dissolved in EtOAc, washed with sat aq NaHCO3, brine, and dried over Na2SO4. Following concentration the residue is carried on to next step without further purification. MS (ESI) ni/z 247.1 (M+1).

reactant | 3-amino-5-(trifluoromethyl)benzoic acid | 1.22 mmol, 0.25 g | NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO2
reactant | HOBt | 3.66 mmol, 0.494 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 1.83 mmol, 0.695 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | propan-2-amine | 3.66 mmol, 0.311 mL | CC(C)N | C3H9N
reactant | DIEA | 5.48 mmol, 0.96 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 3-Amino-N-isopropyl-5-(trifluoromethyl)benzamide | NC=1C=C(C(=O)NC(C)C)C=C(C1)C(F)(F)F | C11H13F3N2O
